US05013749
1,1-Dimethyleth-1-yl (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate
A solution of dry THF (16 ml) and dry methanol (4 ml) under nitrogen at room temperature was treated with a solution of triethyl borane (1.0M in THF, 2.32 ml). After 1 h the mixture was cooled to -78° and treated with a solution of 1,1-dimethyleth-1-yl (5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-5-hydroxy-3-oxo-6-heptenoate (1.075 g) in THF (4:1) (15 ml) plus washings (5 ml). After a further 1 h at -75° the mixture was treated with sodium borohydride (88 mg). After 21/2 h the mixture was quenched with saturated aqueous ammonium chloride solution (2 ml) and allowed to warm. The mixture was then diluted with water (100 ml) and extracted with ethyl acetate (3×70 ml). The combined extracts were dried and evaporated and the residue was azeotroped with methanol (3×30 ml). This gave a pale yellow solid (1.076 g) which was crystallised from ether-cyclohexane to give the title compound (739 mg) as white fluffy crystals, δ(CDCl3) 1.3-1.65 (m, 2H, CH(OH)CH2CH(OH)), 1.40 (d, J 7 Hz, 6H, --CH(CH3)2), 1.46 (s, 9H, --C(CH3)3), 2.35 (d, J 7 Hz, 2H, CH2CO2R), 3.15 (septet, J 7 Hz, 1H, --CH(CH3)2), 3.77, 3.81 (2s, 2H, CH(OH)CH2CH(OH), 4.12 (m, 1H, CH(OH)CH2CO2), 4.42 (m, 1H, =CHCH(OH)CH2 --), 5.30 (dd, J 14 and 7 Hz, 1H, N--CH=CH--), 6.67 (d, J 14 Hz, 1H, N--CH=CH--), 6.90 and 7.09 (2t, J 9 Hz each 2H, C-3 and C-5 protons of 4-fluorophenyls), 7.2-7.43 (m, 4H, C-2 and C-6 protons of 4-fluorophenyls).

reactant | methanol | 4 ml | CO | CH4O
reactant | triethyl borane | 1.0M, 2.32 ml | C(C)B(CC)CC | C6H15B
reactant | 1,1-dimethyleth-1-yl (5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-5-hydroxy-3-oxo-6-heptenoate | 1.075 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](CC(CC(=O)OC(C)(C)C)=O)O)C(C)C | C29H32F2N2O4
reactant | sodium borohydride | 88 mg | [BH4-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethyleth-1-yl (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate | 1.076 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O)C(C)C | C29H34F2N2O4
